US07410984B2
3-(4-Nitrophenyl)pyridine-1-oxide (P2)
m-Chloroperbenzoic acid (6.9 g, 40.0 mmol) was slowly added to a solution of 3-(4-nitrophenyl)pyridine (P1, 4 g, 20.0 mmol) in tetrahydrofuran (200 mL) and the reaction mixture was stirred at room temperature for 1 hour. The solution was poured into aqueous sodium thiosulfate and the resultant mixture was concentrated. Trituration with ethyl acetate afforded the title compound as a solid.

reactant | m-Chloroperbenzoic acid | 40.0 mmol, 6.9 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-(4-nitrophenyl)pyridine | 20.0 mmol, 4 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1C=NC=CC1 | C11H8N2O2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 3-(4-Nitrophenyl)pyridine-1-oxide | [N+](=O)([O-])C1=CC=C(C=C1)C=1C=[N+](C=CC1)[O-] | C11H8N2O3
